US04200313
Following a procedure similar to that described in Example 1 but employing 4.0 g of 2-[4-(dimethylamino)benzoyl]benzoic acid and 3.4 g of 4-acetamido-N-phenylaniline there was obtained 5.9 g of 3-[4-(dimethylamino)phenyl]-3-[N-(4-acetamidophenyl)phenylamino]phthalide, m.p. 182°-184.5° C. An acetone solution of the product contacted with acidic clay or phenolic resin developed an orange-colored image.

reactant | 2-[4-(dimethylamino)benzoyl]benzoic acid | 4.0 g | CN(C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)C | C16H15NO3
reactant | 4-acetamido-N-phenylaniline | 3.4 g | C(C)(=O)NC1=CC=C(NC2=CC=CC=C2)C=C1 | C14H14N2O
product | 3-[4-(dimethylamino)phenyl]-3-[N-(4-acetamidophenyl)phenylamino]phthalide | 5.9 g | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=C(C=C1)NC(C)=O)C1=CC=CC=C1)C | C30H27N3O3
